Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
Cataract eye surgery
 
History of Present Illness:
This is a ___ year old woman who lives by herself and manages her 
diabetes but with frequent hypoglycemic episodes recenlty. She 
just had a catarct eye surgery and was admitted to our service 
for monitoring because of fears of recurrent hypoglycemia. 
During the last weekend, she had a possible prolonged 
hypoglycemic episode that resulted in unconsciousness for hours, 
according to her daughter assessment. The ___ and the 
mother refuse to live together and the patient refuses to move 
to a facility. She does not have ___. She fell multiple times in 
the past and had hip fecture. She takes Lantus ___ Units in the 
AM and a sliding scale. His dose was reduced but her blood 
glucose fluctuates. She eats several small meals a day but she 
has lost her appetite and her meals are inconsistent. She had no 
dementia. She uses a walker at basline. She currently denies any 
symptoms except for chronic right hip pain. All remaining 
systems were reviewed and symptoms were negative.  
 
Past Medical History:
1. Type I Diabetes: ___ year history complicated by peripheral 
neuropathy and diabetic foot ulcers
2. Rheumatoid arthritis: ___ year history status post surgery for 
repair of carpal tunnel, left knee, shoulder, hands, and various 
toes
3. Question Sjogren's syndrome
4. Chronic malabsorption of unknown etiology
5. Iron deficiency anemia with recent normal colonoscopy
 
Social History:
___
Family History:
Mother with type ___ DM. Maternal grandfather with myocardial 
infarction at ___.  No history of cancer.
 
Physical Exam:
General: Elderly female, awake, alert, NAD, pleasant, 
appropriate,cooperative.  
HEENT: eye patch on the right  
Neck: supple, no significant JVD.  
Pulmonary: Lungs CTA bilaterally, no wheezes  
Cardiac: RR, nl S1 S2, no murmurs appreciated  
Abdomen: soft, NT, ND, normoactive bowel sounds  
Extremities: Right foot with 1+ non-pitting edema, no erythema  
or skin breakdown. 
Skin: no other rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves ___ intact
 
Pertinent Results:
None
 
Brief Hospital Course:
This is a ___ year old woman who lived by herself and managed her 
diabetes but with frequent hypoglycemic episodes recently. She 
just had a cataract eye surgery and was admitted to our service 
for monitoring because of fears of recurrent hypoglycemia.  The 
daughter and the mother refused to live together and the patient 
refused to move to a nursing facility. She did not have ___. She 
took Lantus ___ Units in the AM and a sliding scale. She ate 
several small meals a day but she has lost her appetite and her 
meals were inconsistent. She was monitored for hypoglycemia 
using FSBG and insulin regimen was adjusted accordingly. I 
consulted the social worker, ___, and case manager regarding her 
needs at home, home safety evaluation, and to run 
discussions/arrangements regarding ___ and/or changing living 
situation to a nursing facility. The patient was reluctant to 
change her living situation. She was competent and had no signs 
of dementia. She understood the risk of silent hypoglycemia at 
home including death. Her daughter was present during all of 
these discussions and she understood the risk of hypoglycemia. 
During her hospitalization, she had episodes of hypoglycemia and 
hyperglycemia. She was seen by her Endocrinologist. Blood tests 
ruled out DKA. She was discharged home based on her request. I 
stressed the need for a placement in nursing home. However, she 
continued to refuse placement. 
 
Medications on Admission:
Cymbalta 60
Celexa 30
Detrol La 4
folic ___
Ferrous 325
Florinef 0.1
Lyrica 25 
ca-vit d 
prinivil 5 
lantus 8 in AM
SS insulin
Enbrel 25 twice a week

 
Discharge Medications:
1. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Detrol LA 4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO Daily ().  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Pregabalin 25 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
9. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO TID (3 times a day) as needed for acid.  
11. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical 12 HOURS ON 12 HOURS 
OFF ().  
12. Enbrel 25 mg Kit Sig: One (1) dose Subcutaneous twice a week 
().  
13. Insulin Glargine 100 unit/mL Cartridge Sig: Eight (8) untis 
Subcutaneous once a day.  
14. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for Pain.  
15. Insulin Lispro 100 unit/mL Solution Sig: ASDR Units 
Subcutaneous three times a day: Please refer to the sliding 
scale provided to you. .  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Hypoglycemia
Type 1 diabetes
Cataract
 
Discharge Condition:
Good
 
Discharge Instructions:
You were admitted because of fears of hypoglycemia after your 
cataract surgery. We arranged for visiting nurse services at 
your home with occupational therapy. Please consider placement 
in a nursing home as you are at increased risk of hypoglycemia 
and its related complications including death at home. You 
refused placement in a nursing home. We discussed this with your 
daughter who agreed with the plan understanding the risk of 
hypoglycemic episodes at home. 
 
Followup Instructions:
___